US07700786B2
Sodium hydride (60% in oil, 0.2 g, 5.5 mmol) was added to a solution of 3-hydroxy-5-methylpyrazole (0.49 g, 5.0 mmol) and 3,5-dinitro-2-fluorobenzotrifluoride (1.35 g, 5.0 mmol) in DMF (10 ml), and the mixture was stirred under heating at 70° C. for 6 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid (30 ml) and extracted with ethyl acetate (20 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/7), to give a yellowish solid of 3-(2,4-dinitro-6-trifluoromethylphenyloxy)-5-methylpyrazole (0.58 g, yield: 34.9%). mp: 145-147° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.29 (s, 3H), 5.84 (s, 1H), 8.82 (m, 2H), 9.01 (d, J=2.7 Hz, 1H).

reactant | Sodium hydride | 5.5 mmol, 0.2 g | [H-].[Na+]
reactant | 3-hydroxy-5-methylpyrazole | 5.0 mmol, 0.49 g | OC1=NNC(=C1)C | C4H6N2O
reactant | 3,5-dinitro-2-fluorobenzotrifluoride | 5.0 mmol, 1.35 g | [N+](=O)([O-])C=1C(=C(C=C(C1)[N+](=O)[O-])C(F)(F)F)F | C7H2F4N2O4
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(2,4-dinitro-6-trifluoromethylphenyloxy)-5-methylpyrazole | 0.58 g, yield: 34.9% | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)OC1=NNC(=C1)C | C11H7F3N4O5
